US09102669B2
To a solution of 6-fluoro-1-(1-(6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-yl)indoline (75 mg, 0.2 mmol) in THF (3 mL) was added DDQ (54 mg, 0.24 mmol). The resulting mixture was stirred at room temperature for 30 min and was poured into EtOAc (30 mL). The organic layer washed with Na2CO3(aq) (30 mL), H2O (30 mL), dried (Na2SO4), and filtered. The solvent was removed and the resulting residue purified by column using 80-90-100% EtOAc/(CH2Cl2/hexane=1/1) as the eluent to yield 6-fluoro-1-(1-(6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-yl)-1H-indole, which was then converted to its corresponding HCl salt.

reactant | 6-fluoro-1-(1-(6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-yl)indoline | 0.2 mmol, 75 mg | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C=1N=NC(=CC1)C=1C=NN(C1)C | C21H23FN6
reactant | DDQ | 0.24 mmol, 54 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 6-fluoro-1-(1-(6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-yl)-1H-indole | FC1=CC=C2C=CN(C2=C1)C1CCN(CC1)C=1N=NC(=CC1)C=1C=NN(C1)C | C21H21FN6
